US04251655
A solution of 0.05 mole of 4-methylphenyl magnesium bromide in 500 ml of anhydrous ether was treated with 4-benzoylpyridine in 500 ml anhydrous ether. After stirring the resulting mixture for 1.5 hours at 25° , an aqueous solution of ammonium chloride was added causing a solid to form which was filtered. Recrystallization of this material from 95% ethanol afforded the desired α-(4-methylphenyl)-α-phenyl-4-pyridine methanol, m.p. 192°-195° C. The corresponding 4-chlorophenyl (m.p. 198°-202° C.) and 4-methoxyphenyl (m.p. 204°-206° C.) derivatives were also prepared by the same method, using equivalent amounts of the appropriate starting materials.

reactant | 4-methylphenyl magnesium bromide | 0.05 mole | CC1=CC=C(C=C1)[Mg]Br
reactant | 4-benzoylpyridine | C(C1=CC=CC=C1)(=O)C1=CC=NC=C1 | C12H9NO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ether | 500 ml | CCOCC | C4H10O
solvent | ether | 500 ml | CCOCC | C4H10O
product | α-(4-methylphenyl)-α-phenyl-4-pyridine methanol | CC1=CC=C(C=C1)C(O)(C1=CC=NC=C1)C1=CC=CC=C1 | C19H17NO
